US04259336
4-Hydroxy-2-methyl-N-phenyl-2H-[1]-benzothieno[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and aniline with a yield of 60% of theory.

reactant | methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-Hydroxy-2-methyl-N-phenyl-2H-[1]-benzothieno[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 60% | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC1=CC=CC=C1 | C18H14N2O4S2
